US06566360B1
4-Propoxy-3-(5-methyl-4-oxo-7-propyl-3,4-dihydro-imidazo[5,1-f][1,2,4]triazin-2-yl)-benzenesulphonyl chloride
At 0° C., 2.80 g (8.6 mmol) of 2-(2-propoxy-phenyl)-5-methyl-7-propyl-3H-imidazo[5,1-f][1,2,4]triazin-4-one are added slowly to 5.13 ml of chlorosulphonic acid. The reaction mixture is stirred at room temperature overnight and then poured into ice-water and extracted with dichloromethane. This gives 3.50 g (96%) of a colourless foam. Rf=0.49 (dichloromethane/methanol=95:5)

reactant | 2-(2-propoxy-phenyl)-5-methyl-7-propyl-3H-imidazo[5,1-f][1,2,4]triazin-4-one | 8.6 mmol, 2.80 g | C(CC)OC1=C(C=CC=C1)C1=NN2C(C(N1)=O)=C(N=C2CCC)C | C18H22N4O2
reactant | chlorosulphonic acid | 5.13 ml | ClS(=O)(=O)O | ClHO3S
product | 4-Propoxy-3-(5-methyl-4-oxo-7-propyl-3,4-dihydro-imidazo[5,1-f][1,2,4]triazin-2-yl)-benzenesulphonyl chloride | C(CC)OC1=C(C=C(C=C1)S(=O)(=O)Cl)C1=NN2C(C(N1)=O)=C(N=C2CCC)C | C18H21ClN4O4S
